US04632930
4-(1-Methylethyl)-5-(4-methylsulfonylphenyl)-α,αbis(trifluoromethyl)-1H-imidazole-2-methanol
A mixture of 4.0 g (0.01 mole) of 4-(1-methylethyl)-5-(4-methylthiophenyl)-α,α-bis(trifluoromethyl)-1H-imidazole-2-methanol, 16.06 g (0.026 mole) of Oxone® (potassium hydrogen persulfate) and 115 ml of methanol was stirred at room temperature overnight. The inorganic solid was filtered off, and the filtrate was evaporated. The residue was partitioned between ethyl acetate and water. The layers were separated and the organic layer was washed with water, brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The product was recrystallized from dichloroethane affording 3.33 g (77%) of the title compound as a white solid, m.p. 182°-184° C.

reactant | 4-(1-methylethyl)-5-(4-methylthiophenyl)-α,α-bis(trifluoromethyl)-1H-imidazole-2-methanol | 0.01 mole, 4.0 g | CC(C)C=1N=C(NC1C1=CC=C(C=C1)SC)C(O)(C(F)(F)F)C(F)(F)F | C16H16F6N2OS
reactant | Oxone | 0.026 mole, 16.06 g | OOS(=O)[O-].[K+]
reactant | potassium hydrogen persulfate | S(=O)(=O)(O)OOS(=O)(=O)[O-].[K+]
reactant | methanol | 115 ml | CO | CH4O
product | 4-(1-Methylethyl)-5-(4-methylsulfonylphenyl)-α,αbis(trifluoromethyl)-1H-imidazole-2-methanol | CC(C)C=1N=C(NC1C1=CC=C(C=C1)S(=O)(=O)C)C(O)(C(F)(F)F)C(F)(F)F | C16H16F6N2O3S
